US05279999
A mixture of 8.1 g (0.03 mol) 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazolium chloride, 180 ml triethylamine, 150 ml ethanol, 21 g of 1-butene-3-one (0.3 mol) and 30.7 g of benzaldehyde (0.29 mol) was gently stirred at 80° C. for 16 hours. Volatile components were removed by evaporation. The 1-phenyl-1,4-pentanedione thus formed was recovered by extraction and subsequent vacuum distillation.

reactant | triethylamine | 180 ml | C(C)N(CC)CC | C6H15N
reactant | 1-butene-3-one | 0.3 mol, 21 g | C=CC(C)=O | C4H6O
reactant | benzaldehyde | 0.29 mol, 30.7 g | C(C1=CC=CC=C1)=O | C7H6O
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazolium chloride | 0.03 mol, 8.1 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-phenyl-1,4-pentanedione | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
